US06090836
EXAMPLE 7 Step A: Preparation of 3-methyl-6-hydroxy-7-propylbenz-[4,5]-isoxazole
A solution of 2,4-dihydroxy-3-propylacetophenone (1.008 grams) in dry methanol (10 mL) was treated with hydroxylamine hydrochloride (1.803 grams) and anhydrous sodium acetate (2.127 grams). The mixture was refluxed 4 hours. HPLC analysis indicated the complete disappearance of starting material. The reaction was partitioned between isopropyl acetate and pH 7 buffer. The organic was dried over magnesium sulfate, filtered and evaporated to a solid. Acetic anhydride (11 mL) was added and the solution stirred at ambient temperature for 14 hours. The solvent was removed in vacuo and the residue partitioned between isopropyl acetate and pH 7 buffer. The organic was dried over magnesium sulfate, filtered and concentrated to a residue. Pyridine (12 mL) was added and the solution refluxed for 3 hours. The solvent was removed in vacuo and the residue partitioned between isopropyl acetate and 0.1 N HCl. The organic was washed with 0.1 N HCl and dried over magnesium sulfate. The organic was filtered and concentrated to a residue which was chromatographed over silica gel to afford the title compound.

reactant | 2,4-dihydroxy-3-propylacetophenone | 1.008 grams | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | hydroxylamine hydrochloride | 1.803 grams | Cl.NO
reactant | sodium acetate | 2.127 grams | C(C)(=O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-methyl-6-hydroxy-7-propylbenz-[4,5]-isoxazole | CC1=NOC2=C1C=CC(=C2CCC)O | C11H13NO2
